US04994569
Phenyl isocyanate (0.33 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere of (5RS, 6SR)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (0.4 g) in 1,2-dichloroethane (10 cc). The solution obtained is stirred under reflux for 4 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by chromatography on silica (0.063-0.2 mm; 50 g) contained in a column 2 cm in diameter, collecting 20-cc fractions. Fractions 5 to 11, eluted with a mixture of ethyl acetate and cyclohexane (3:7 by volume), are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in petroleum ether, (5RS, 6SR)-2,6-diphenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine (0.36 g), m.p. 111° C., is obtained.

reactant | Phenyl isocyanate | 0.33 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (5RS, 6SR)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 0.4 g | C1(=CC=CC=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C16H15NO2
solvent | 1,2-dichloroethane | 10 cc | ClCCCl | C2H4Cl2
product | (5RS, 6SR)-2,6-diphenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine | 0.36 g | C1(=CC=CC=C1)C=1OC(C(CN1)OC(NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H20N2O3
